US04889941
(b) 7-[3-[N-benzyl,N-(3-nicotinylpropyl)amino]-2-hydroxypropoxy]flavone
A mixture of 7-(2,3-epoxypropoxy)flavone (15 g, 51.0 mmol) and N-(3-nicotinylpropyl)benzylamine (22.5 g, 100 mmol) in ethanol (150 ml) was heated at 60° C. for 3 hours. The ethanol was then evaporated and the residue was washed with cyclohexane (three times) to remove the excess amine. The remaining residue was then extracted with ethyl acetate (twice), and the extracts were evaporated to give a red syrup. Purification of the red syrup by flash column chromatography eluting with EtOAc--MeOH (20:1) gave 8.0 g of a yellow syrup, 30% yield, which is stored in the refrigerator and used for the further reaction.

reactant | 7-(2,3-epoxypropoxy)flavone | 51.0 mmol, 15 g | O1C(COC2=CC=C3C(C=C(OC3=C2)C2=CC=CC=C2)=O)C1 | C18H14O4
reactant | N-(3-nicotinylpropyl)benzylamine | 100 mmol, 22.5 g | C(C1=CN=CC=C1)CCCNCC1=CC=CC=C1 | C16H20N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 7-[3-[N-benzyl,N-(3-nicotinylpropyl)amino]-2-hydroxypropoxy]flavone | 8.0 g, 30% yield | C(C1=CC=CC=C1)N(CCCCC1=CN=CC=C1)CC(COC1=CC=C2C(C=C(OC2=C1)C1=CC=CC=C1)=O)O | C34H34N2O4
